US05565571
(S)-N-[[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide
A mixture of (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl azide (PREPARATION 16. 8.200 g, 34.71 mol) in ethyl acetate (100 ml) is treated with palladium on carbon (10%, 0.820 g) under nitrogen. The atmosphere is then replaced with hydrogen (balloon) via repeated evacuation and filling. Alter stirring under hydrogen for 17 hr, TLC in methanol/chloroform (5/95) reveals the azide starling material is consumed. The atmosphere is replaced with nitrogen and then pyridine (6 ml) and acetic anhydride (4.1 ml, 43-40 mmol) are added to the reaction mixture. The reaction mixture is stirred for 1 hr at 20°-25° and then filtered through Celite, washing the pad with ethyl acetate. The flitrate is concentrated under reduced pressure and the residue taken-up in dichloromethane. The addition of ether affords a precipitate. After standing in the refrigerator overnight the solids are collected by vacuum filtration, washed with cold hexane, and dried under reducedpressure to give the title compound as a solid. The crude product is purified by chromatography over silica gel, eluting with methanol/chloroform (5/95). The appropriate fractionsare pooled and concentrated to give the title compound, mp 140.0°-140.5°; [α]25 D -6.6° (c 1.0, CHCl3).

reactant | (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl azide | 34.71 mol, 8.200 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)CN=[N+]=[N-])=O | C10H9FN4O2
reactant | hydrogen | [H][H] | H2
reactant | azide | [N-]=[N+]=[N-]
reactant | acetic anhydride | 43-40 mmol, 4.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.820 g | [Pd] | Pd
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (S)-N-[[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1)N1C(O[C@H](C1)CNC(C)=O)=O | C12H13FN2O3
